US07851071B2
Dissolving 6.8 g (29 mmol) 4-bromo-N-methyl-2-nitroaniline obtained in the above step (1) into 20 milliliter of pyridine, further adding 5.0 g (35 mmol) benzoyl chloride, the resultant solution was refluxed with heating at the temperature of 90° C. under an atmosphere of argon gas for 7 hours. After completing the reaction, 200 milliliter of ethyl acetate was added and the resultant solution was washed with 10% HCL, with 10% K2CO3 and with a saturated solution of sodium chloride and then, dried with the use of magnesium sulfate. After filtration, the solvent was removed by distillation under reduced pressure and the residue was refined with silicagel column chromatography (hexane:ethyl acetate=10:1 at primary stage→2:1 from middle stage) resultantly obtaining 9.5 g of 4′-bromo-N-methyl-2′-amino-benzanilide as greenish white solids (yield: 96%).

reactant | 4-bromo-N-methyl-2-nitroaniline | 29 mmol, 6.8 g | BrC1=CC(=C(NC)C=C1)[N+](=O)[O-] | C7H7BrN2O2
reactant | pyridine | 20 milliliter | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 35 mmol, 5.0 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | ethyl acetate | 200 milliliter | C(C)(=O)OCC | C4H8O2
product | 4′-bromo-N-methyl-2′-amino-benzanilide | 9.5 g, yield: 96% | BrC1=CC(=C(N(C(C2=CC=CC=C2)=O)C)C=C1)N | C14H13BrN2O
